US06492416B1
To a stirred solution of 4-bromo-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone (170 mg) in 30 ml toluene and 10 ml ethanol, were added 25 mg of tetrakis(triphenylphosphine)palladium(0), 10 ml of saturated aqueous sodium bicarbonate, and 100 mg of 3-fluorobenzeneboronic acid. The reaction solution was stirred at 90° C. for 12 hours. Then the solvent was removed under reduced pressure. The resulting residue was extracted with water and dichloromethane. The organic layer was concentrated in vacuo and the resulting residue was separated by column chromatography (hexane/ethylacetate) to yield 120 mg of 2,2-dimethyl-4-(3-fluorophenyl)-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone as a solid. mp: 178-179° C. NMR: δ1.58 (s, 6H), 3.08 (s, 3H), 7.05 (m, 3H), 7.33 (m, 1H), 7.83 (d, J=8.7 Hz, 2H), 7.95 (d, J=8.4 Hz, 2H). IR (cm−1): 3020, 1697, 1620, 1403, 1318, 1149, 958, 768. MS (FAB): 361 (m+1).

reactant | 4-bromo-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 170 mg | BrC=1C(C(OC1C1=CC=C(C=C1)S(=O)(=O)C)(C)C)=O | C13H13BrO4S
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
reactant | 3-fluorobenzeneboronic acid | 100 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,2-dimethyl-4-(3-fluorophenyl)-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 120 mg | CC1(OC(=C(C1=O)C1=CC(=CC=C1)F)C1=CC=C(C=C1)S(=O)(=O)C)C | C19H17FO4S
